* source SPICE 2
Q_Q1         N00309 VB N00305 Q2N3904
R_R1         VB N00280  6.5k TC=0,0 
R_RC         N00280 N00309  500 TC=0,0 
R_RE         0 N00305  450 TC=0,0 
R_R2         VB 0  2.5k TC=0,0 
R_RL         N00345 0  5k TC=0,0 
R_Rs         VS N01310  500 TC=0,0 
C_C2         N00309 N00345  100M  TC=0,0 
C_C1         N01310 VB  100M  TC=0,0 
V_V2         N00280 0 DC 5  
V_V3         VS 0 DC 0 AC 1n 
