* source 3
Q_Q1         I N14610 N14617 Q2N3904
Q_Q2         N14610 N14610 N14617 Q2N3904
R_R1         I N14560 9.3k
I_I1         N14560 N14610 DC 1mA  
R_R2         I N15510 9.3k
Q_Q4         N15554 N15540 N15526 Q2N3904
Q_Q3         I N15540 N15526 Q2N3904
I_I2         N15510 N15554 DC 1mA  
Q_Q5         N15510 N15554 N15540 Q2N3904
V_V5         0 N15510 DC -5V  
V_V6         N15526 0 DC -5V  
V_V7         0 N14560 DC -5  
V_V8         N14617 0 DC -5  
